US06020342
2'-Methyl-2-bromoacetophenone
To a solution of 3 g of 2'-methylacetophenone in 60 ml of acetic acid was added successively 9.7 ml of 47% hydrobromic acid and 8.6 g of pyridinium hydrobromide perbromide, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with water and a saturated sodium carbonate solution, and dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was removed under reduced pressure to give 5.4 g of the title compound as a colorless oily material.

reactant | 2'-methylacetophenone | 3 g | CC1=C(C=CC=C1)C(C)=O | C9H10O
reactant | hydrobromic acid | 9.7 ml | Br | BrH
reactant | pyridinium hydrobromide | 8.6 g | Br.[NH+]1=CC=CC=C1
reactant | water | O | H2O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 2'-Methyl-2-bromoacetophenone | 5.4 g | CC1=C(C=CC=C1)C(CBr)=O | C9H9BrO
